US08710242B2
N-Cyclopropyl-6-[(1E)-3-oxo-3-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}amino)-prop-1-en-1-yl]-4-(trifluoromethyl)nicotinamide (compound No. If-2 in Table 6)
(2E)-3-[5-(Cyclopropylcarbamoyl)-4-(trifluoromethyl)pyridin-2-yl]acrylic acid (61 mg, 0.20 mmol) and 2,2,2-trifluoro-1-[3-trifluoromethylphenyl]ethanamine (46 mg, 0.19 mmol) were initially charged in N,N-dimethylformamide and admixed with HBTU (72 mg, 0.19 mmol) and N-methylmorpholine (57 mg, 0.57 mmol) and stirred at room temperature overnight. Subsequently, the reaction mixture was concentrated under reduced pressure, taken up in ethyl acetate and washed successively with a sodium hydrogencarbonate solution (10% Y) and a saturated sodium chloride solution. The organic phase was dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue was chromatographed on a preparative HPLC with water/acetonitrile as the eluent (gradient=43 min from 10% acetonitrile in water to 100% acetonitrile).

reactant | (2E)-3-[5-(Cyclopropylcarbamoyl)-4-(trifluoromethyl)pyridin-2-yl]acrylic acid | 0.20 mmol, 61 mg | C1(CC1)NC(=O)C=1C(=CC(=NC1)/C=C/C(=O)O)C(F)(F)F | C13H11F3N2O3
reactant | 2,2,2-trifluoro-1-[3-trifluoromethylphenyl]ethanamine | 0.19 mmol, 46 mg | FC(C(N)C1=CC(=CC=C1)C(F)(F)F)(F)F | C9H7F6N
reactant | HBTU | 0.19 mmol, 72 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 0.57 mmol, 57 mg | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-Cyclopropyl-6-[(1E)-3-oxo-3-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}amino)-prop-1-en-1-yl]-4-(trifluoromethyl)nicotinamide | C1(CC1)NC(C1=CN=C(C=C1C(F)(F)F)\C=C\C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C22H16F9N3O2
